US07473784B2
To a solution of 2-(ethylthio)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3-amine(1.00 g, 3.04 mmol, 1.0 eq.) in THF (100 mL) under nitrogen at 0° C. was added MCPBA (77%, 1.60 g, 9.27 mmol, 3.05 eq.). After 3 h 15 min, 5% aqueous sodium thiosulfate and saturated aqueous NaHCO3 were added, and the solution was stirred for 10 min. CH2Cl2 was then added, and the layers were separated. The aqueous layer was extracted with CH2Cl2 (2×), and the organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo. Trituration with EtOAc afforded 2-(ethylsulfonyl)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3amine as a light tan solid (0.94 g, 85% yield).

reactant | 2-(ethylthio)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3-amine | 3.04 mmol, 1.00 g, 1.0 eq. | C(C)SC1=NC(=CC=C1N)C=1C(=NN(C1)C)C1=C(C=CC=C1)F | C17H17FN4S
reactant | MCPBA | 9.27 mmol, 1.60 g, 3.05 eq. | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(ethylsulfonyl)-6-(3-(2-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)pyridine-3amine | 0.94 g, 85% yield | C(C)S(=O)(=O)C1=NC(=CC=C1N)C=1C(=NN(C1)C)C1=C(C=CC=C1)F | C17H17FN4O2S
